US08039472B2
3-[4-(Pyridin-4-ylmethoxy)-phenyl]-propionic acid
To a solution of 3-[4-(Pyridin-4-ylmethoxy)-phenyl]-propionic acid methyl ester (0.28 g, 1.03 mmol) in THF (5 ml) and MeOH (5 ml) at room temperature is added 2 N LiOH (0.52 ml, 1.032 mmol) and the resulting solution is stirred overnight. Further 2 N LiOH (0.103 ml) is added and the reaction mixture stirred for a further 1 hour. The reaction mixture is concentrated in vacuo and the residue is diluted with water (50 ml) followed by EtOAc. The aqueous phase is acidified to pH2 with 1 N HCl, and extracted with DCM. The organic phase is concentrated to a third of its volume in vacuo until a white powder precipitates which is collected by filtration to yield the title compound; [M+H]+ 258.0

reactant | 3-[4-(Pyridin-4-ylmethoxy)-phenyl]-propionic acid methyl ester | 1.03 mmol, 0.28 g | COC(CCC1=CC=C(C=C1)OCC1=CC=NC=C1)=O | C16H17NO3
reactant | LiOH | 1.032 mmol, 2 N, 0.52 ml | [Li+].[OH-]
reactant | LiOH | 2 N, 0.103 ml | [Li+].[OH-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
product | 3-[4-(Pyridin-4-ylmethoxy)-phenyl]-propionic acid | N1=CC=C(C=C1)COC1=CC=C(C=C1)CCC(=O)O | C15H15NO3
